Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Latex
 
Attending: ___.
 
Chief Complaint:
Left lower extremity weakness
 
Major Surgical or Invasive Procedure:
___ T11-L1 decompressive laminectomy, tumor resection, T9-L2 
instrumented fusion with neuromonitoring

 
History of Present Illness:
This is a ___ female who is known to Dr. ___. She was 
diagnosed previously with a long history of renal cell carcinoma 
and has recently presented with progressive metastases to her 
lumbar spine. She has a large
lesion in the post. elements overlying T12-L1 with infiltration 
of both lamina, the facet joint as well as the epidural space. 
There was noted to be sig. spinal cord compression. The patient 
is symptomatic. 
It is felt that she is not a candidate for radiation therefore 
___ wished to undergo surgical decompression of the 
lesion.  
 
Past Medical History:
Renal Cell Carcinoma
Adrenal recurrence
Rt. nephrectomy ___
Adrenalectomy ___
Left knee surgery ___
T&A
Polypectomies 
 
Social History:
___
Family History:
unknown
 
Physical Exam:
On Discharge:
Neurologically intact with the exception of Left lower extremity 
___ in the quadracep. Sensorium is reported to be 
intact. Surgical incision is slightly erythemic, but intact. 
There is a small blister noted adjacent to the right of midline 
incision. 
 
Pertinent Results:
___ WBC-9.1 RBC-2.87* Hgb-8.0* Hct-24.9* MCV-87 MCH-28.0 
MCHC-32.3 RDW-15.3 Plt ___
___ Plt ___
___ Glucose-112* UreaN-8 Creat-0.6 Na-136 K-4.3 Cl-103 
HCO3-30 AnGap-7*
___ CT-T-spine: Post-operative thoracolumbar spine, with 
posterior fusion from T10-L3 with pedicle screws in T10, T11, 
T12, L2, and L3. 
 Satisfactory position of pedicle screws. Laminectomy from 
T11-L1 with resection of metastases. Sacral soft tissue mass 
causing bone destruction, and measuring almost 5 cm. 
  
MRI T Spine: final report pending at discharge.

Intraoperative Pathology: final report pending at discharge

 
Brief Hospital Course:
     To O.R. ___ as planned. Immediately following 
surgergy on post op day one and two the pt recieved a total of 4 
units of packed red blood cells for symptomatic low urine 
output, hypotension and decreasing Hematocrit. The pt tolerated 
the transfusions well, with no signs of volume overload or 
cardiac dysfunction. Subsequent hematocrits have been stable, 
and symptoms of hypovolemia resolved. This is likely attributed 
to intraoperative volume losses.  
     Lower extremity motor strength is noted to be improving 
daily and the patient reports her preoperative pain is also 
improved. ___ has been consulted to work with the pt daily and 
evaluate for any post discharge needs. She was found to be an 
appropriate rehab candidate, and was discharged to an 
appropriate facility on ___ with appropriate follow up 
instructions. 
 
Medications on Admission:
AMLODIPINE, HCTZ, Levothyroxine, Lorazepam, Nystatin,Omprazole, 
Oxycodone, Valsartan, Zometa 
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Thoracic tumor

 
Discharge Condition:
Stable

 
Discharge Instructions:
•Do not smoke.
•Keep your wound(s) clean and dry / No tub baths or pool 
swimming for two weeks from your date of surgery.
•No pulling up, lifting more than 10 lbs., or excessive bending 
or twisting.
•Limit your use of stairs to ___ times per day.
•Have a friend or family member check your incision daily for 
signs of infection.
•Take your pain medication as instructed; you may find it best 
if taken in the morning when you wake-up for morning stiffness, 
and before bed for sleeping discomfort.
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc. unless directed by your 
doctor.
•Increase your intake of fluids and fiber, as pain medicine 
(narcotics) can cause constipation. We recommend taking an over 
the counter stool softener, such as Docusate (Colace) while 
taking narcotic pain medication.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:

•Pain that is continually increasing or not relieved by pain 
medicine.
•Any weakness, numbness, tingling in your extremities.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, and drainage.
•Fever greater than or equal to 101° F. 
•Any change in your bowel or bladder habits (such as loss of 
bowl or urine control). 

 
Followup Instructions:
___